US05891871
7,8-Methylenedioxy-1-(3-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
The title compound was prepared from methyl 4,5-methylenedioxy-2-(3-nitrobenzoyl)phenylacetate (500 mg, 1.46 mmol), hydrazine hydrate (350 μL, 6.20 mmol), and acetic acid (50 μL) in ethanol (15 mL) as a yellow solid (30 mg, 0.092 mmol, 6%), mp: 251°-253° C. 1H NMR (CDCl3) 8.52 (s, 1H), 8.46 (s, 1H), 8.31 (d, J=8.2, 1H), 7.99 (d, J=8.2, 1H), 7.62 (t, J=8.2, 1H), 6.87 (s, 1H), 6.57 (s, 1H), 6.06 (s, 2H), 3.49 (s, 2H). Anal. Calcd. for C16H11N3O5 : C, 59.08; H, 3.41; N, 12.92. Found: C, 58.95; 11, 3.29; N, 12.15.

reactant | methyl 4,5-methylenedioxy-2-(3-nitrobenzoyl)phenylacetate | 1.46 mmol, 500 mg | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H13NO7
reactant | hydrazine hydrate | 6.20 mmol, 350 μL | O.NN
reactant | ethanol | 0.092 mmol, 15 mL, 30 mg | C(C)O | C2H6O
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
product | 7,8-Methylenedioxy-1-(3-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | C1OC=2C(=CC3=C(CC(NN=C3C3=CC(=CC=C3)[N+](=O)[O-])=O)C2)O1 | C16H11N3O5
